US06953790B2
Step A. tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-1-[2-(methylsulfonyl)ethyl]-2-oxoazepan-3-ylcarbamate
Oxone® (16.1 mg, 0.11 mmol) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-1-[2-(methylthio)ethyl]-2-oxoazepan-3-ylcarbamate (22 mg, 0.053 mmol) in methanol (2 mL) and water (2 mL). After 6 h excess oxone (32 mg, 0.22 mmol) was added. After 18 h, the reaction was quenched with aqueous sodium sulfite solution and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium carbonate (3×), saturated brine, dried over magnesium sulfate, filtered and concentrated to give the title compound. MS 447 (M+1).

reactant | Oxone | OOS(=O)[O-].[K+]
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-1-[2-(methylthio)ethyl]-2-oxoazepan-3-ylcarbamate | 0.053 mmol, 22 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CCSC)=O)NC(OC(C)(C)C)=O | C20H28F2N2O3S
reactant | oxone | 0.22 mmol, 32 mg | OOS(=O)[O-].[K+]
reactant | methanol | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | tert-Butyl (3R,6S)-6-(2,3-difluorophenyl)-1-[2-(methylsulfonyl)ethyl]-2-oxoazepan-3-ylcarbamate | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CCS(=O)(=O)C)=O)NC(OC(C)(C)C)=O | C20H28F2N2O5S
